US06664265B2
A solution of tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate (32.0 g, 92.0 mmol) in 300 mL of CH2Cl2 was treated with triethylamine (19.2 mL, 138.0 mmol). The reaction was chilled in an ice water bath and then propionyl chloride (9.40 mL, 108.2 mmol) was added dropwise. After stirring for 18 h, the reaction was treated with water (150 mL) and the layers were separated. The aqueous portion was extracted with CH2Cl2 (3×50 mL). The combined organic portions were washed with 1% Na2CO3, water, brine, dried over Na2SO4, filtered and concentrated to yield a red sticky solid. The solid was triturated with ether and filtered to yield 16.5 g of tert-butyl 2-(2-{[3-(propionylamino)quinolin-4-yl]amino}ethoxy)ethylcarbamate as an off white powder.

reactant | tert-butyl 2-{2-[(3-aminoquinolin-4-yl)amino]ethoxy}ethylcarbamate | 92.0 mmol, 32.0 g | NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C18H26N4O3
reactant | triethylamine | 138.0 mmol, 19.2 mL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 108.2 mmol, 9.40 mL | C(CC)(=O)Cl | C3H5ClO
reactant | water | 150 mL | O | H2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2-{[3-(propionylamino)quinolin-4-yl]amino}ethoxy)ethylcarbamate | 16.5 g | C(CC)(=O)NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C21H30N4O4
